US08487108B2
To a solution (1R*,2R*)-2-bromocyclohexanol (27 g, 0.151 mol) of and imidazole (24.9 g, 0.366 mol) in DMF (500 mL) was added TBSCl (24.9 g, 0.166 mol), the reaction mixture was stirred overnight at rt. Water was added and extracted by EtOAc three times. The combined organic layers were dried, filtered, and concentrated to give ((1R*,2R*)-2-bromocyclohexyloxy)(tert-butyl)dimethylsilane (32 g, 72%). 1H NMR (CDCl3, 400 MHz) δ 0.05-1.05 (d, 6H), 0.90 (s, 9H), 1.20-1.40 (m, 3H), 1.60-1.85 (m, 3H), 1.98-2.10 (m, 1H), 2.25-2.40 (m, 1H), 3.63-3.73 (m, 1H), 3.85-3.97 (m, 1H).

reactant | (1R*,2R*)-2-bromocyclohexanol | 0.151 mol, 27 g | Br[C@H]1[C@@H](CCCC1)O | C6H11BrO
reactant | imidazole | 0.366 mol, 24.9 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.166 mol, 24.9 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | ((1R*,2R*)-2-bromocyclohexyloxy)(tert-butyl)dimethylsilane | 32 g, 72% | Br[C@H]1[C@@H](CCCC1)O[Si](C)(C)C(C)(C)C | C12H25BrOSi
